US05616605
Boc-Nal-CH2OH. L-naphthylalaninol (2.72 g; 13.5 mmol) was dissolved in tert-butanol (60 ml) and di-t-butyl pyrocarbonate (3.16 g; 14.5 mmol) was added. The reaction was stirred at room temperature for 3 h, then the solvent was removed in vacuo. A white solid was crystallized from AcOEt/hexane (3.47 g; 92% yield): mp 131°-132° C.

reactant | Boc-Nal-CH2OH | N([C@@H](CC1=CC=C2C=CC=CC2=C1)CO)C(=O)OC(C)(C)C | C18H23NO3
reactant | di-t-butyl pyrocarbonate | 14.5 mmol, 3.16 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 60 ml | C(C)(C)(C)O | C4H10O
product | AcOEt hexane | 3.47 g, 92% yield | CCOC(=O)C.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
